US06809119B2
A solution of 4-tert-butyl benzoic acid (0.2 g, 1.2 mmol in 10 mL of dry THF) cooled to 0° C. and treated with N-methyl-morpholine (1.6 mL, 14.6 mmol) as well as isobutyl chloroformate (1.7 mL, 1.3 mmol). Then the mixture was stirred for 10 minutes at 0° C. After hydrazine (0.6 g, 3.6 mmol) was added to the reaction mixture, it was stirred 3 hours at 25° C. The reaction was then diluted with ethyl acetate (100 mL), washed with saturated sodium bicarbonate solution as well as brine, and concentrated in vacuum. The crude material was chromatographed on silica gel eluting with hexanes/ethyl acetate=2:1 to give 4-tert-butyl-benzoic acid hydrazide.

reactant | 4-tert-butyl benzoic acid | 1.2 mmol, 10 mL, 0.2 g | C(C)(C)(C)C1=CC=C(C(=O)O)C=C1 | C11H14O2
reactant | N-methyl-morpholine | 14.6 mmol, 1.6 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 1.3 mmol, 1.7 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | hydrazine | 3.6 mmol, 0.6 g | NN | H4N2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 4-tert-butyl-benzoic acid hydrazide | C(C)(C)(C)C1=CC=C(C(=O)NN)C=C1 | C11H16N2O
